US05459243
3',5'-Di-O-benzoyl-2'-O-methyl-5-fluorouridine (9.6 g, 20 mmoles) was dissolved in methanol (350 ml) which had been previously saturated with ammonia at -20° C. The solution was sealed in a stainless steel bomb at room temperature for 17 hours and then concentrated to an oil under reduced pressure. The oil was chromatographed on silica gel (200 g) using ethyl acetate to give 5.4 g (98%) of 2'-O-methyl-5-fluorouridine as a white solid. A portion (0.5 g) was crystallized from ethyl acetate/toluene to yield 0.4 g of white needles as the analytical sample, mp 151°-152° C. (lit. M. J. Robins, et. al., J. Am. Chem. Soc., 89, 7381 (1976)., mp 144°-147° C.). 1H NMR (DMSO-d6): δ 3.39 (s, 3H, OCH3), 3.5-3.7 (m, 2H, H-5'), 3.7-3.9 (m, 2H, H-3',4'), 4.13 (m, 1H, H-2'), 5.18 (d, J=6 Hz, 1H, 3'--OH), 5.35 (br t, 1H, 5'--OH), 5.81 (dd, 1H, H-1'), 8.35 (d, J=7 Hz, 1H, H-6), 11.40 (br d, 1H, N--H). Anal. Calcd for C10H13N2O6 (276.22): C, 43.48; H, 4.74; N, 10.14. Found: C, 43.56; H, 4.63; N, 10.02.

reactant | 3',5'-Di-O-benzoyl-2'-O-methyl-5-fluorouridine | 20 mmoles, 9.6 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H]([C@@H](O[C@@H]1COC(C1=CC=CC=C1)=O)N1C(=O)NC(=O)C(=C1)F)OC | C24H21FN2O8
reactant | ammonia | N | H3N
solvent | methanol | 350 ml | CO | CH4O
product | 2'-O-methyl-5-fluorouridine | 5.4 g, 98% | CO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)F | C10H13FN2O6
